US06548496B2
To 250 mg of 4-(4-chloro-2-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile under an inert atmosphere was added 8 mL of 1 M sodium (2dimethylamino-ethoxide) in tetrahydrofuran. After refluxing for 2 hours, the reaction was stripped of tetrahydrofuran and water was added. The product was filtered, washed with water, dried, and recrystallized from chloroform/ether/hexanes to give 204 mg (64%) of 4-(4-chloro-2-fluoro-phenylamino)-6-(2-dimethylamino-ethoxy)-[1,7]naphthyridine-3-carbonitrile as a yellow solid: melting point 150-152° C.; mass spectrum (m/e): M+H 385.9.

reactant | 4-(4-chloro-2-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 250 mg | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CN=C(C=C12)F)C#N)F | C15H7ClF2N4
reactant | sodium (2dimethylamino-ethoxide) | 1 M, 8 mL | CN(CC[O-])C.[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-chloro-2-fluoro-phenylamino)-6-(2-dimethylamino-ethoxy)-[1,7]naphthyridine-3-carbonitrile | 204 mg, 64% | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CN=C(C=C12)OCCN(C)C)C#N)F | C19H17ClFN5O
